US07691902B2
N-(4′-(Aminomethyl)-6-methylbiphenyl-3-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (40 mg, 0.10 mmol), 1-propanesulfonyl chloride (11 μL, 0.10 mmol) and Et3N (28 μL, 0.20 mmol) were dissolved in dichloromethane (1.0 mL) and allowed to stir at 25° C. for 16 hours. Volatiles were removed in vacuo and crude product was purified by reverse phase HPLC to afford 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-4′-(propylsulfonamidomethyl)biphenyl-3-yl)cyclopropanecarboxamide (5.3 mg, 10%). ESI-MS m/z calc. 506.6, found 507.3 (M+1)+; retention time 3.48 minutes.

reactant | N-(4′-(Aminomethyl)-6-methylbiphenyl-3-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 40 mg | NCC1=CC=C(C=C1)C1=CC(=CC=C1C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C25H24N2O3
reactant | 1-propanesulfonyl chloride | 0.10 mmol, 11 μL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | Et3N | 0.20 mmol, 28 μL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(6-methyl-4′-(propylsulfonamidomethyl)biphenyl-3-yl)cyclopropanecarboxamide | 5.3 mg, 10% | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC=C(C=C2)CNS(=O)(=O)CCC | C28H30N2O5S
